US06608203B2
Cyclohexanecarboxylic acid [2-(3-methoxyphenyl)ethyl]amide
A mixture of 3-methoxyphenethylamine (1.000 g, 6.61 mmol), cyclohexanecarboxylic acid (0.847 g, 6.61 mmol), 1-hydroxybenzotriazole hydrate (1.340 g, 9.92 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.330 g, 6.94 mmol) in anhydrous CH2Cl2 (20 ml) was stirred at 0° C. under N2 for 1 hr, then warmed to rt and stirred at rt for 18 hr. The reaction mixture was washed sequentially with 1M NaOH (10 ml), 1M HCl (10 ml), and H2O (10 ml), then dried over MgSO4 and concentrated in vacuo to give 1.301 g of off-white solid. Purification by flash chromatography, eluting with hexane:EtOAc (6:4) gave 1.107 g (64% yield) of white solid.

reactant | 3-methoxyphenethylamine | 6.61 mmol, 1.000 g | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | cyclohexanecarboxylic acid | 6.61 mmol, 0.847 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | 1-hydroxybenzotriazole hydrate | 9.92 mmol, 1.340 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.94 mmol, 1.330 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Cyclohexanecarboxylic acid [2-(3-methoxyphenyl)ethyl]amide | 1.301 g | COC=1C=C(C=CC1)CCNC(=O)C1CCCCC1 | C16H23NO2
